US08252797B2
5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid (0.35 g, 1.28 mmol) in diethyl ether (5 ml) was added to a solution of lithium aluminium hydride (0.097 g, 2.56 mmol) in THF (5 ml) at temperature 0° C. over a period of 10 min. The mixture was refluxed for 2 hours and then stirred at room temperature for 20 hours. The reaction mixture was diluted with diethyl ether (15 ml) and quenched with water (10 ml). The organic layer was separated and aqueous layer was extracted with diethyl ether. The combined organic layer was washed with saturated brine solution, dried over Na2SO4 and evaporated to obtain a residue which was purified by preparative TLC to afford [1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-methanol as a colorless mass (0.2 g, 64%).

reactant | 5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid | 1.28 mmol, 0.35 g | O=C1CC(CN1C1=CC(=CC=C1)C(F)(F)F)C(=O)O | C12H10F3NO3
reactant | lithium aluminium hydride | 2.56 mmol, 0.097 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | [1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-methanol | FC(C=1C=C(C=CC1)N1CC(CC1)CO)(F)F | C12H14F3NO
